US08222248B2
To DMF (10 mL) was added HATU (3.61 g, 9.50 mmol), 4-amino-3-nitrobenzoic acid (1.15 g, 6.32 mmol), triethylamine (1.32 mL, 958 mg, 9.47 mmol), and 4-tert-butylaniline (1.0 mL, 945 mg, 6.33 mmol). The mixture was stirred at ambient temperature for 18 h then was poured into ethyl acetate and extracted once with water and five times with brine. The organic phase was dried, filtered, and the solvent removed under reduced pressure. The residue was purified by chromatography using gradient of a 30-70% heptane/ethyl acetate to afford 4-amino-N-(4-tert-butylphenyl)-3-nitrobenzamide. MS (ESI) m/z 314.1 (M+H); retention time 1.50 min (Method 10), which was used directly in the next step.

reactant | HATU | 9.50 mmol, 3.61 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-amino-3-nitrobenzoic acid | 6.32 mmol, 1.15 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | triethylamine | 9.47 mmol, 1.32 mL, 958 mg | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylaniline | 6.33 mmol, 1.0 mL, 945 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-amino-N-(4-tert-butylphenyl)-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=C1)[N+](=O)[O-] | C17H19N3O3
